Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:8][C:9]([H:10])([H:11])[H:12].[H:7],2.93621107624
[H:1][C:2][O:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7],2.6786978232700003
[C:1]=[C:2]([H:3])[C:4]([C:6]#[C:7])[O:8][H:9].[H:5]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7])[O:8][H:9],-1.5087515962
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.73459908053
[H:1][C:2]([H:3])([H:4])[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.26319939324
[H:14].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.52907940299
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8]=[C:9][C:10]([H:11])([H:12])[H:13],-1.7314342983700002
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.33329646
[C:8]([H:9])([H:10])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.037578713809999
[C:4]([H:5])([H:6])=[C:7][O:8][H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-2.58916439959
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10]([H:11])[H:12],0.48753831431
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][C:12]([H:13])([H:14])[H:15],1.92139984722
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],5.36966019665
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10].[O:11][H:12],6.45297521773
[C:1][C:2]([H:3])=[C:4]([O:5][H:6])[O:7][H:8]>>[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[O:7][H:8],5.28806665467
[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.35621703365
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.632617992809999
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])=[C:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.54535342803
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[O:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-3.5558685994
[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.46496591077
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:11]([H:12])([H:13])[O:14][H:15]>>[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-0.687345626101
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9][C:10]([H:11])([H:12])[H:13],1.5215600154299995
[H:1][C:2]1[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]1>>[H:1][C:2](=[C:3]=[O:4])[C:9][O:8][C:5]([H:6])[H:7],-0.298555308
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])([H:4])[C:5][C:6](=[O:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.22930603921
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],5.26545361741
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:4],1.8603923501
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.46086097593
[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:11]([C:8]([O:7][O:6])([H:9])[H:10])([H:12])[H:13],0.0210489810597
